US08614206B2
Following the procedure for Example 506 starting with (R)—N-(1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide and 5-(tert-butoxycarbonylamino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid gave (R)-tert-butyl 2-(2-fluorophenyl)-4-(1-cyclopropyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a cream solid (370 mg, 76%). 1H-NMR (400 MHz, CDCl3) δ 10.36 (s, 1H), 8.69 (s, 1H), 8.12-8.00 (m, 1H), 7.45-7.30 (m, 1H), 7.28-7.15 (m, 3H), 6.40-6.27 (m, 1H), 4.30-4.15 (m, 1H), 3.43-3.15 (m, 5H), 2.25-1.75 (m, 6H), 1.55 (s, 9H), 1.35-1.15 (m, 2H), 1.10-0.95 (m, 2H).

reactant | (R)—N-(1-(1-cyclopropyl-4-nitro-1H-pyrazol-5-yl)azepan-4-yl)-2,2,2-trifluoroacetamide | C1(CC1)N1N=CC(=C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C14H18F3N5O3
reactant | 5-(tert-butoxycarbonylamino)-2-(2-fluorophenyl)thiazole-4-carboxylic acid | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1)F)C(=O)O | C15H15FN2O4S
product | (R)-tert-butyl 2-(2-fluorophenyl)-4-(1-cyclopropyl-5-(4-(2,2,2-trifluoroacetamido)azepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 370 mg, 76% | FC1=C(C=CC=C1)C=1SC(=C(N1)C(NC=1C=NN(C1N1CC[C@@H](CCC1)NC(C(F)(F)F)=O)C1CC1)=O)NC(OC(C)(C)C)=O | C29H33F4N7O4S
